US05096890
Preparation of 5-(2-bromoethyl)benzo[2,3-b]furan
A mixture containing 5-(2-bromoethyl)-2,3-dihydrobenzo[2,3-b ]furan (3 g--see Preparation 13), freshly recrystallised N-bromosuccinimide (2.37 g), benzoyl peroxide (0.03 g) and carbon tetrachloride was heated under reflux for 2 hours. On cooling to room temperature, water (100 ml) and sodium metabisulphite (1 g) were added, the layers were separated and the aqueous layer was extracted with dichloromethane (3×50 ml). The combined organic extracts were dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with hexane containing toluene (5%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as an oil, yield 1.25 g.

reactant | 5-(2-bromoethyl)-2,3-dihydrobenzo[2,3-b ]furan | 3 g | BrCCC1=CC2=C(OCC2)C=C1 | C10H11BrO
reactant | N-bromosuccinimide | 2.37 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.03 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | sodium metabisulphite | 1 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 100 ml | O | H2O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(2-bromoethyl)benzo[2,3-b]furan | BrCCC1=CC2=C(OC=C2)C=C1 | C10H9BrO
